US07449475B2
N-(4-Fluoro-2-hydroxyphenyl)acetamide
A mixture of 5-fluoro-2-nitrophenol (5 g, 31.8 mmol), acetic anhydride (4.86 g, 47.7 mmol) and platinum on carbon (5%, 200 mg) in methanol was hydrogenated at 35 psi for 3 hours. The catalyst was filtered off and the residue was purified by silica gel flash chromatography to give the subtitled compound (4.7 g).

reactant | 5-fluoro-2-nitrophenol | 31.8 mmol, 5 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | acetic anhydride | 47.7 mmol, 4.86 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | platinum on carbon | 200 mg | [Pt] | Pt
solvent | methanol | CO | CH4O
product | N-(4-Fluoro-2-hydroxyphenyl)acetamide | 4.7 g | FC1=CC(=C(C=C1)NC(C)=O)O | C8H8FNO2
